US05643932
5-Ethoxycarbonyl-3-(α-bromoacetyl)furan and 3,4- diethoxythiobenzamide were subjected to the same reaction as in Example 1 and then to the same hydrolysis as in Example 147 to obtain 2-(3,4-diethoxyphenyl)-4-(5-carboxy-3-furyl)thiazole.

reactant | 5-Ethoxycarbonyl-3-(α-bromoacetyl)furan | C(C)OC(=O)C1=CC(=CO1)C(CBr)=O | C9H9BrO4
reactant | 3,4- diethoxythiobenzamide | C(C)OC=1C=C(C(=S)N)C=CC1OCC | C11H15NO2S
product | 2-(3,4-diethoxyphenyl)-4-(5-carboxy-3-furyl)thiazole | C(C)OC=1C=C(C=CC1OCC)C=1SC=C(N1)C1=COC(=C1)C(=O)O | C18H17NO5S
